US09427475B2
Step E: (S)-2,5-dioxopyrrolidin-1-yl 5-[(2-{[α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl]oxy}ethyl)amino]-5-oxo-2-[5-oxo-5-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)pentanamido]pentanoate
To a solution of (S)-5-[(2-{[α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl]oxy}ethyl)amino]-5-oxo-2-[5-oxo-5-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)pentanamido]pentanoic acid (366 mg, 0.373 mmol) in DMF (2 mL) at 0° C. was added TSTU (115 mg, 0.381 mmol) and DIPEA (0.1 mL, 0.573 mmol). After stirring at 0° C. for 1 hour, the reaction was quenched with TFA (60 μL, 0.784 mmol). The reaction mixture was transferred dropwise, via autopipette, to a tube containing AcCN (45 mL). The resulting white suspension was centrifuged (3000 rpm, 15 minutes, at 4° C.) to generate a clear supernatant and a white pellet. The supernatant was discarded and the white pellet was washed with AcCN (1 mL) and dried to yield title compound UPLC Method B: calculated for C42H68N4O28 1076.40, observed m/e: 1077.28 [M+1]; Rt=0.90 min.

reactant | (S)-5-[(2-{[α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl]oxy}ethyl)amino]-5-oxo-2-[5-oxo-5-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)pentanamido]pentanoic acid | 0.373 mmol, 366 mg | [C@H]1([C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@@H]1[C@@H]([C@H](O[C@@H]([C@H]1O)CO[C@@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OCCNC(CC[C@@H](C(=O)O)NC(CCCC(NCCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)=O)=O)=O)O | C38H65N3O26
reactant | TSTU | 0.381 mmol, 115 mg | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
reactant | DIPEA | 0.573 mmol, 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TFA | 0.784 mmol, 60 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | AcCN | 45 mL | C(=O)(C)C#N | C3H3NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (S)-2,5-dioxopyrrolidin-1-yl 5-[(2-{[α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl]oxy}ethyl)amino]-5-oxo-2-[5-oxo-5-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)pentanamido]pentanoate | [C@H]1([C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@@H]1[C@@H]([C@H](O[C@@H]([C@H]1O)CO[C@@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OCCNC(CC[C@@H](C(=O)ON1C(CCC1=O)=O)NC(CCCC(NCCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)=O)=O)=O)O | C42H68N4O28
